US04273932
Synthesis of 5-Amino-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid Ethyl Ester
4-Hydroxy-5,6,7,8-tetrahydro-5-hydroxyimino-3-quinolinecarboxylic acid ethyl ester (2.5 g) was suspended in 90 ml of acetic acid, and 2.6 g of zinc dust was added to the suspension with its internal temperature kept at 60° C. The resulting reaction mixture was stirred for 5 hours. After the reaction mixture was filtered to remove the insoluble matter, the filtrate was concentrated to obtain the desired compound as a crude product. This crude product was used in the succeeding Example 10 without further purification.

reactant | 4-Hydroxy-5,6,7,8-tetrahydro-5-hydroxyimino-3-quinolinecarboxylic acid ethyl ester | 2.5 g | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)=NO | C12H14N2O4
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.6 g | [Zn] | Zn
product | 5-Amino-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)N | C12H16N2O3
